US07915261B2
Tert-butyl 4-({4-[(3-fluorobenzyl)oxy]phenyl}sulfanyl)piperidine-1-carboxylate (501 mg) was dissolved in EtOAc (5 ml), and a 4 M hydrogen chloride/EtOAc solution (3 ml) was added thereto, followed by stirring at room temperature for 3 hours. Then, the solvent was evaporated under reduced pressure. The residue was dissolved in water, neutralized with an aqueous 1 M sodium hydroxide solution, followed by extraction with chloroform. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to obtain 4-({4-[(3-fluorobenzyl)oxy]phenyl}sulfanyl)piperidine (328 mg).

reactant | Tert-butyl 4-({4-[(3-fluorobenzyl)oxy]phenyl}sulfanyl)piperidine-1-carboxylate | 501 mg | FC=1C=C(COC2=CC=C(C=C2)SC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C23H28FNO3S
reactant | hydrogen chloride EtOAc | 4 M, 3 ml | Cl.CCOC(=O)C
solvent | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
product | 4-({4-[(3-fluorobenzyl)oxy]phenyl}sulfanyl)piperidine | 328 mg | FC=1C=C(COC2=CC=C(C=C2)SC2CCNCC2)C=CC1 | C18H20FNOS
